US07842707B2
1,3-Diaminobicyclo[3.2.1]octane dihydrochloride
A suspension of 1,3-dicarboxybicyclo[3.2.1]octane (6.15 g, 31 mmol) in toluene (150 mL) was azeotroped under a Dean-Stark trap to dryness, then cooled to room temperature under nitrogen and treated with triethylamine (12.2 mL, 87.5 mmol) and diphenylphosphoryl azide (20.4 g, 74 mmol). The solution was slowly and cautiously warmed to 80° C. (some exotherm and much evolution of gas observed) and stirred at 80°-90° C. for 3 h, then concentrated in vacuo to remove toluene and the residue cooled on an ice bath and treated with 6N hydrochloric acid (60 mL, 360 mmol). The bath was removed and the mixture stirred at room temperature for 3 h, then partially concentrated to remove most water. Acetonitrile (150 mL) was added, and the suspension was cooled for an hour in a refrigerator, filtered, and the solid rinsed with acetonitrile and dried in vacuo to afford 5.25 g (79%) of subject material as a white solid. [M+H]+=141.3. 1H NMR (d6-DMSO) δ 8.55 (br s, 6H), 2.23 (m, 1H), 1.91 (m, 2H), 1.55-1.75 (m, 9H).

reactant | 1,3-dicarboxybicyclo[3.2.1]octane | 31 mmol, 6.15 g | C(=O)(O)C12CC(CC(CC1)C2)C(=O)O | C10H14O4
reactant | triethylamine | 87.5 mmol, 12.2 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 74 mmol, 20.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrochloric acid | 360 mmol, 6N, 60 mL | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3-Diaminobicyclo[3.2.1]octane dihydrochloride | 5.25 g, 79% | Cl.Cl.NC12CC(CC(CC1)C2)N | InChI=1S/C8H16N2.2ClH/c9-7-3-6-1-2-8(10,4-6)5-7;;/h6-7H,1-5,9-10H2;2*1H
